US05128355
A solution of 5.00 g of 1-[(3'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole and 1.0 mL of conc. sulfuric acid in 200 mL of methanol was refluxed for 20 hours. After cooling, the solvent was remove in vacuo, and the residue was poured into saturated sodium bicarbonate solution. The resulting mixture was extracted with methylene chloride, and the combined organic phases were washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Column chromatography on silica gel (elution: 0-20% ethyl acetate/benzene) furnished 5.35 g of 1-[(3'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole; NMR (200 MHz, CDCl3): δ 8.26 (t, 1H); 8.03 (d of t, 1H); 7.76 (d of t, 1H); 7.51 (t, 1H); 7.33 (A2M2, 4H); 5.20 (s, 2H); 4.31 (s, 1H); 3.94 (s, 3H); 3.27 (s, 3H); 2.59 (t, 2H); 1.68 (quint., 2H); 1.34 (sext., 2H); 0.87 (t, 3H).

reactant | 1-[(3'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 5.00 g | C(=O)(OC)C=1C=C(C=CC1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C23H25ClN2O3
reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 mL | CO | CH4O
product | 1-[(3'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole | 5.35 g | C(=O)(OC)C=1C=C(C=CC1)C1=CC=C(C=C1)CN1C(=NC(=C1COC)Cl)CCCC | C24H27ClN2O3
